US06646079B2
AIBN/TEMPO
5 ml of styrene (43 millimole), 0.0177 g of TETRATEMPO (1.13×10−5 mol) and 3.3 g of AIBN (2×10−5 mol) are used with 7.3 mg of TEMPO (4.7×10−5 mol). The procedure followed is the same as in Example 1. After polymerizing for 5 hours, a polymer is obtained, the chromatogram of which exhibits only a single broad peak (PI=1.4) with a slight shoulder towards the high masses.

reactant | styrene | 43 millimole, 5 ml | C=CC1=CC=CC=C1 | C8H8
reactant | AIBN | 2×10−5 mol, 3.3 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | TEMPO | 4.7×10−5 mol, 7.3 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | AIBN TEMPO | CC(C)(C#N)N=NC(C)(C)C#N.CC1(CCCC(N1[O])(C)C)C | InChI=1S/C9H18NO.C8H12N4/c1-8(2)6-5-7-9(3,4)10(8)11;1-7(2,5-9)11-12-8(3,4)6-10/h5-7H2,1-4H3;1-4H3
